US04435566
10 g of 2-chloro-4-pyrrolidino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine, 10 g of piperazine and 50 ml of benzene were heated at a bath temperature of 70°-80° C. for 4 hours. The solvent was then distilled off and the resulting residue was dissolved in dichloromethane. The solution was washed with water and dried. The solvent was distilled off and the resulting crystals were washed thoroughly with diethyl ether to obtain 7.3 g (61% yield) of 2-piperazino-4-pyrrolidino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine.

reactant | 2-chloro-4-pyrrolidino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 10 g | ClC=1N=C(C2=C(N1)CCCS2)N2CCCC2 | C11H14ClN3S
reactant | piperazine | 10 g | N1CCNCC1 | C4H10N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-piperazino-4-pyrrolidino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 7.3 g, 61% yield | N1(CCNCC1)C=1N=C(C2=C(N1)CCCS2)N2CCCC2 | C15H23N5S
